US04623730
100 g of cyanomethylurea is combined with a mixture of 300 ml of methanol and 5 ml of 8N sodium hydroxide solution and stirred for 3 hours at 25°-30° C. The mixture is allowed to cool to 20° C., the resultant product is removed by filtration, washed with a small amount of ice-cold methanol, and dried under vacuum, thus obtaining 92.6 g of (2-methoxy-2-iminoethyl)urea (=70% of theory).

reactant | cyanomethylurea | 100 g | C(#N)CNC(=O)N | C3H5N3O
reactant | sodium hydroxide | 8N, 5 ml | [OH-].[Na+]
reactant | methanol | 300 ml | CO | CH4O
product | (2-methoxy-2-iminoethyl)urea | 92.6 g, 70% | COC(CNC(=O)N)=N | C4H9N3O2
